* NMOS Id–Vgs sweep (Sky130) 
.options scale=1.0
.options temp=-196.15
.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k 

* Drain bias 
VDS DRAIN 0 0 
* Gate sweep source 
VGS GATE 0 1.85
* MOSFET 
XM1 DRAIN GATE 0 0 sky130_fd_pr__nfet_01v8_lvt w=1.6u l=0.15u nf=1 ad=0.384p as=0.384p pd=2.08u ps=2.08u

.control
  destroy all
set filetype=ascii

 
  compose vds_vals values 0.01 0.37 0.74 1.1 1.5 1.9 
 
  foreach idx 0 1 2 3 4 5
    
    let current_vds = vds_vals[$idx]
    set vds_scalar = $&current_vds
    alter VDS = $vds_scalar

    save @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id] v(GATE)

    dc VGS 0 1.85 0.01

    let vgs_axis = v(GATE)
    let id_axis = @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id]
    let vds_axis = current_vds
    
    
    wrdata vgs_sweep_step{$idx}.txt vgs_axis id_axis vds_axis


    
  end 
.endc 

.end
.end
